US05591849
1'-Methylspiro[tetralin-2,3'-piperazine]-2',5'-dione
A solution of ethyl 2-(N-methylaminoacetylamino)tetralin-2-carboxylate (290 mg, 1.0 mmol) in a 1 N aqueous sodium hydroxide solution (2 ml)-tetrahydrofuran (10 ml) was stirred for 13 hours while heating at 80° C. After the reaction mixture was concentrated under reduced pressure, the residue was dissolved in ethyl acetate. This solution was washed by sequential additions of water and saturated saline, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to yield 150 mg (61%) of the title compound as a crude crystal, a portion of which was then recrystallized from chloroform-isopropyl ether.

reactant | ethyl 2-(N-methylaminoacetylamino)tetralin-2-carboxylate | 1.0 mmol, 290 mg | CNCC(=O)NC1(CC2=CC=CC=C2CC1)C(=O)OCC | C16H22N2O3
reactant | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1'-Methylspiro[tetralin-2,3'-piperazine]-2',5'-dione | 150 mg, 61% | CN1C(C2(NC(C1)=O)CC1=CC=CC=C1CC2)=O | C14H16N2O2
